US06908935B2
Step 6) 4-Propargyloxy-3-(4-methoxyphenyl)benzaldehyde:
A solution of 4-hydroxy-3-(4-methoxyphenyl)benzaldehyde (1.14 g, 5 mmol) in DMF (10 mL) was treated with potassium carbonate (2.48 g, 18 mmol), potassium iodide (10 mg) and propargyl bromide (0.67 mL, 6 mmol). The mixture was heated at 80 C for 3 days, then cooled and the solvent removed under reduced pressure. The residue was redissolved in ethyl acetate and washed water then brine. The organic layer was dried over sodium sulphate then the solvent removed under reduced pressure and the residue purified by column chromatography (3/1 hexane/ethyl acetate) to afford 0.078 g of title compound.

reactant | 4-hydroxy-3-(4-methoxyphenyl)benzaldehyde | 5 mmol, 1.14 g | OC1=C(C=C(C=O)C=C1)C1=CC=C(C=C1)OC | C14H12O3
reactant | potassium carbonate | 18 mmol, 2.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 10 mg | [I-].[K+]
reactant | propargyl bromide | 6 mmol, 0.67 mL | C(C#C)Br | C3H3Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Propargyloxy-3-(4-methoxyphenyl)benzaldehyde | 0.078 g | C(C#C)OC1=C(C=C(C=O)C=C1)C1=CC=C(C=C1)OC | C17H14O3
